US04360672
25.3 parts by weight of 4-(3'-trifluoromethylphenoxy)-aniline suspended in 230 parts by volume of concentrated hydrochloric acid are diazotized with 6.9 parts by weight of NaNO2 in 30 parts by volume of H2O at 0° C., and the product is then reduced with 45 parts by weight of SnCl2 to give 4-(3'-trifluoromethylphenoxy)-phenylhydrazine hydrochloride. The hydrochloride is suspended in 400 parts by volume of 2 N hydrochloric acid, 16.7 parts by weight of mucochloric acid are added and the mixture is kept for 1 hour at 90° C. When it has cooled, the hydrochloric acid is separated from the organic phase, 160 parts by volume of glacial acetic acid are added to the latter, and this mixture is stirred for 10 minutes after reflux. It is then cooled and water is then added to the reaction mixture. The 1-[4'-(3"-trifluoromethyl-phenoxy)]-phenyl-4,5-dichloro-pyridaz-6-one formed is filtered off and recrystallized from methanol (No. 1).

reactant | 4-(3'-trifluoromethylphenoxy)-aniline | FC(C=1C=C(OC2=CC=C(N)C=C2)C=CC1)(F)F | C13H10F3NO
reactant | hydrochloric acid | Cl | ClH
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | SnCl2 | Cl[Sn]Cl
solvent | H2O | O | H2O
product | 4-(3'-trifluoromethylphenoxy)-phenylhydrazine hydrochloride | Cl.FC(C=1C=C(OC2=CC=C(C=C2)NN)C=CC1)(F)F | InChI=1S/C13H11F3N2O.ClH/c14-13(15,16)9-2-1-3-12(8-9)19-11-6-4-10(18-17)5-7-11;/h1-8,18H,17H2;1H
